US09371318B2
Step 5: 3-(1,3-Dioxolan-2-yl)propyl 1-methyl-5-((3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)methyl)-1H-pyrazole-3-carboxylate
The title compound was prepared as described in Example 1 Step 10 with 1-methyl-5-((3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)-methyl)-1H-pyrazole-3-carboxylic acid and 3-(1,3-dioxolan-2-yl)propan-1-ol replacing 4-((3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)methyl)-benzoic acid and 4-(2-hydroxyethoxy)-3-methylbenzaldehyde respectively.

reactant | 1-methyl-5-((3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)-methyl)-1H-pyrazole-3-carboxylic acid | CN1N=C(C=C1COC1=CC(=CC=C1)[C@@H](NC(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2)C(=O)O | C27H30N4O5
reactant | 3-(1,3-dioxolan-2-yl)propan-1-ol | O1C(OCC1)CCCO | C6H12O3
reactant | 4-(2-hydroxyethoxy)-3-methylbenzaldehyde | OCCOC1=C(C=C(C=O)C=C1)C | C10H12O3
product | 3-(1,3-Dioxolan-2-yl)propyl 1-methyl-5-((3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)methyl)-1H-pyrazole-3-carboxylate | CN1N=C(C=C1COC1=CC(=CC=C1)[C@@H](NC(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2)C(=O)OCCCC2OCCO2 | C33H40N4O7
